Vs1 1 2 AC 1 7
Is1 3 4 AC 1 8
*
* comment.  next line should also be skipped
   
Vs1 5 6 DC 1  ; ignore this
Is1 7 8 DC 2 
Vs1 1 3 AC 1 7.0 8.0
Is1 1 7 AC 2 7.0 8.0 ; test multiple semicolons: ignore this and ; and this
Vs1 1 9 AC 3 7.0 
Is1 9 2 AC 4 7.0
R1 3 2 0.5
C1 5 2 1
L1 9 2 3
Rg 11 0 0.001
Dx 1 2 1.01 2.02
Py 1 2 1.01 2.02 3.14
E1 1 2 3 4 7
E2 1  2 3 4 7 
*E2 1   ; invalid
E3 1 2 3   4 7 1.03 2.718   
*
.END
C1 5 2 1 invalid not seen
